US05747621
To a solution of 2-(p-tolyl)-2-indanol (17.27 g, 77.01 mmol) in THF (200 mL) was added a solution of concentrated hydrochloric acid (40 mL) in water (60 mL). The solution was stirred at room temperature overnight (12 h). The solid was collected and washed with pentane (50 mL) and then tetrahydrofuran (50 mL) to give 14.77 g of 2-(p-tolyl)-1H-indene. 1 H-N.M.R. (CDCl3) d 2.43(s, 3H), d 3.83 (br s, 2H), d 7.20-7.35(m, 5H), d 7.45(br d, J=7.1 Hz, 2H), d 7.55(br d, J=7.1 Hz, 2H), d 7.60 (br d, J=7.1 Hz, 2H).

reactant | 2-(p-tolyl)-2-indanol | 77.01 mmol, 17.27 g | C1(=CC=C(C=C1)C1(CC2=CC=CC=C2C1)O)C | C16H16O
reactant | hydrochloric acid | 40 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | 2-(p-tolyl)-1H-indene | 14.77 g | C1(=CC=C(C=C1)C=1CC2=CC=CC=C2C1)C | C16H14
